US07304062B2
2-[4-[3-[2,5-dihydro-1-[(4-Methylphenyl)methyl]-5-oxo-1H-1,2,4-triazol-3-yl]propyl]phenoxy]-2-methyl-propanoic Acid
A 4-neck flask was equipped with overhead stirring apparatus and thermometer probe. The flask was charged with 2-(4-{3-[1-(4-Methylphenylmethyl)-4-methyl-5-oxo-4,5-dihydro-1H-[1,2,4]triazol-3-yl]-propyl}phenoxy)-2-methyl-propionic acid, ethyl ester (800 g, 1.828 moles), and toluene (4000 mL) followed by 1N NaOH (4023 mL, 2.194 mol, 1.2 eq). The resulting mixture was stirred at ambient temperature for 5 h. The mixture was transferred to a 22-L bottom outlet flask and layers separated. The aqueous layer from the above layer separation was charged to the flask and acidified to pH 2 with concentrated HCl (337 mL). Ethyl acetate was added (8000 mL) and the mixture was transferred to a 22-L bottom-outlet flask. The layers were separated and the organic solution was transferred to a 22- L 3-neck round-bottom flask equipped with a distillation head and overhead stirring apparatus. The mixture was concentrated by distillation of the ethyl acetate to approximately 4000 mL, and fresh ethyl acetate (3600 mL) was added to the reaction vessel. Distillation was continued until 3600 mL of distillate were recovered. Heating was stopped and the mixture was allowed to cool slowly to 60-65° C., at which point seed crystals (0.8 g) of the desired product were added. The flask contents were allowed to cool slowly until crystallization initiated (55-57° C.), then the mixture was cooled to 0-5° C. and stirred for 1 h. The product was filtered, washed with cold ethyl acetate, and dried in vacuo at 55° C. to afford the title compound as a white solid (713.6 g, 95.3%). 1H NMR (DMSO-d6, 500 MHz): δ 1.46 (s, 6 H), 1.79 (m, 2 H), 2.25 (s, 3H), 2.35 (t, 2 H), 2.47 (t, 2 H), 4.70 (s, 2 H), 6.71 (d, 2H), 7.03 (d, 2H), 7.10 (m, 4 H). 13C NMR (DMSO-d6), δ 20.6, 25.0, 25.5, 27.7, 47.0, 78.3, 118.6, 127.4, 127.7, 128.9, 128.9, 134.4, 134.5, 136.4, 145.9, 153.4, 154.3, 175.0.

reactant | 2-(4-{3-[1-(4-Methylphenylmethyl)-4-methyl-5-oxo-4,5-dihydro-1H-[1,2,4]triazol-3-yl]-propyl}phenoxy)-2-methyl-propionic acid, ethyl ester | 1.828 moles, 800 g | CC1=CC=C(C=C1)CN1N=C(N(C1=O)C)CCCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C26H33N3O4
reactant | NaOH | 2.194 mol, 1N, 4023 mL, 1.2 eq | [OH-].[Na+]
solvent | toluene | 4000 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[4-[3-[2,5-dihydro-1-[(4-Methylphenyl)methyl]-5-oxo-1H-1,2,4-triazol-3-yl]propyl]phenoxy]-2-methyl-propanoic Acid | 713.6 g, 95.3% | CC1=CC=C(C=C1)CN1NC(=NC1=O)CCCC1=CC=C(OC(C(=O)O)(C)C)C=C1 | C23H27N3O4
